US05723450
2-Methyl-3-methoxy-4-[2-(4-tert-butylphenoxy)ethoxy]pyridine
A mixture of 1.57 g (10 mmol) of 2-methyl-3-methoxy-4-chloropyridine, 2.52 g (13 mmol) of 2-(4-tert-butylphenoxy)ethanol and 15 ml of DMSO is added dropwise at 25° C. to 0.36 g (12 mmol) of NaH (80% strength) in 25 ml of DMSO. The mixture is then stirred at 60° C. for 5 hours. For working up, saturated ammonium chloride solution is added at 20° to 25° C. and the mixture is extracted with ethyl acetate. The reaction product is purified by chromatography (SiO2 ; EtOAc). Yield: 2.63 g (74.9%); m.p.: 84° to 87° C.

reactant | 2-methyl-3-methoxy-4-chloropyridine | 10 mmol, 1.57 g | CC1=NC=CC(=C1OC)Cl | C7H8ClNO
reactant | 2-(4-tert-butylphenoxy)ethanol | 13 mmol, 2.52 g | C(C)(C)(C)C1=CC=C(OCCO)C=C1 | C12H18O2
reactant | NaH | 12 mmol | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | 2-Methyl-3-methoxy-4-[2-(4-tert-butylphenoxy)ethoxy]pyridine | CC1=NC=CC(=C1OC)OCCOC1=CC=C(C=C1)C(C)(C)C | C19H25NO3
